US04584014
Beta-Chloroethylideneaminooxyacetic acid
A 100 ml single necked round bottomed flask was equipped with a magnetic stirring bar. This flask was charged with aminooxyacetic acid hemihydrochloride (3.0 gm, 14 mmoles) dissolved in 20 ml of deionized water. Chloroacetaldehyde (45% w/v in water, 419 gm, 28 mmoles) was added rapidly, dropwise, with stirring. A mild exotherm was noticed. The resulting mixture was heated on a steam bath for 2 hours. This solution was cooled to room temperature, then three times extracted with dichloromethane. The combined organic layers were dried over magnesium sulfate, then taken to dryness in vacuo. The desired material was obtained as a white solid, 1.7 gm having a melting point of 66°-68° C.

reactant | aminooxyacetic acid hemihydrochloride | 14 mmoles, 3.0 gm | Cl.NOCC(=O)O.NOCC(=O)O
reactant | Chloroacetaldehyde | 28 mmoles, 419 gm | ClCC=O | C2H3ClO
solvent | water | 20 ml | O | H2O
product | Beta-Chloroethylideneaminooxyacetic acid | ClCC=NOCC(=O)O | C4H6ClNO3
